US06858638B2
N-[5-(2-Methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl)-acetamide can be obtained as described in Example 28 from 0.5 g of N-(3-amino-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide, 3 ml of pyridine and 98 μl of acetyl chloride. 338 mg of N-[5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl)-acetamide are thus obtained in the form of a white solid which decomposes at approximately 145° C. (analysis C16H16N4O5S2 % calculated C, 47.05; H, 3.95; N, 13.72; O, 19.59; S, 15.7. % found C, 46.96; H, 4.27; N, 13.23; S, 14.91).

reactant | N-(3-amino-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide | 0.5 g | NC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H14N4O4S2
reactant | acetyl chloride | 98 μl | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl)-acetamide | 338 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)NC(C)=O | C16H16N4O5S2
